US05728650
To a stirred solution of tetraethyl 3-oxopentane-1,1-bisphosphonate (0.50 g, 1.4 mmol) in methanol (5 ml) was added a small amount of bromothymol blue and benzylamine (0.75 g, 7.0 mmol). Acetic acid was added dropwise until the solution turned yellow (pH=6), and NaCNBH3 (57 mg, 0.9 mmol) was added. The resulting yellow solution was stirred at room temperature for 2 days, at which time more NaCNBH3 (20 mg) was added. After stirring a total of 4 days, the reaction was quenched by adding concentrated HCl until the pH was less than 1, and the solvents were removed in vacuo. The residue was taken up in water (10 ml) and washed with diethyl ether (2×20 ml). The aqueous layer was made basic (pH greater than 10) by the addition of solid KOH, saturated with NaCl, and extracted with dichloromethane (5×25 ml). The combined extracts were dried (Na2SO4) and concentrated to give tetraethyl 3-benzylaminopentane-1,1-bisphosphonate. This material was hydrolyzed by heating at reflux in concentrated HCl (6 ml) for 20 hours. The volatiles were removed under vacuum, the residue dissolved in water (10 ml) and concentrated under vacuum to give 0.49 g of Compound No. 159 as a hygroscopic foam.

reactant | tetraethyl 3-oxopentane-1,1-bisphosphonate | 1.4 mmol, 0.50 g | O=C(CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC)CC | C13H28O7P2
reactant | bromothymol blue | CC1=C(C(=C(C=C1C2(C3=CC=CC=C3S(=O)(=O)O2)C4=CC(=C(C(=C4C)Br)O)C(C)C)C(C)C)O)Br | C27H28Br2O5S
reactant | benzylamine | 7.0 mmol, 0.75 g | C(C1=CC=CC=C1)N | C7H9N
reactant | NaCNBH3 | 0.9 mmol, 57 mg | [BH3-]C#N.[Na+]
reactant | NaCNBH3 | 20 mg | [BH3-]C#N.[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | tetraethyl 3-benzylaminopentane-1,1-bisphosphonate | C(C1=CC=CC=C1)NC(CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC)CC | C20H37NO6P2
